US07429579B2
3-Trifluoracetyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-carbaldehyde (20.0 g) and hydroxylamine hydrochloride (6.1 g) in pyridine (140 ml) were stirred overnight and the reaction then evaporated in vacuo. The residue was partitioned between ethyl acetate and 10% sodium carbonate solution and the combined organic layers dried and evaporated to give 3-trifluoracetyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-carbaldehyde oxime (17.2 g) as a yellow solid.

reactant | 3-Trifluoracetyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-carbaldehyde | 20.0 g | FC(C(=O)N1CCC2=C(CC1)C=CC(=C2)C=O)(F)F | C13H12F3NO2
reactant | hydroxylamine hydrochloride | 6.1 g | Cl.NO
solvent | pyridine | 140 ml | N1=CC=CC=C1 | C5H5N
product | 3-trifluoracetyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-carbaldehyde oxime | 17.2 g | FC(C(=O)N1CCC2=C(CC1)C=CC(=C2)C=NO)(F)F | C13H13F3N2O2
